US08404709B2
3-Ethyl-4-formylbenzonitrile
A solution of 1.3 g (8.27 mmol) of 4-formyl-3-vinylbenzonitrile in 35 ml of ethanol is mixed with 880 mg of 10% palladium on carbon and vigorously stirred under a hydrogen atmosphere for 2 h. The suspension is filtered through a layer of kieselguhr, the residue is washed with ethanol, and the filtrate is concentrated. The residue (890 mg) is employed without further purification in the following stage.

reactant | 4-formyl-3-vinylbenzonitrile | 8.27 mmol, 1.3 g | C(=O)C1=C(C=C(C#N)C=C1)C=C | C10H7NO
solvent | ethanol | 35 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 880 mg | [Pd] | Pd
product | 3-Ethyl-4-formylbenzonitrile | C(C)C=1C=C(C#N)C=CC1C=O | C10H9NO
